US05015640
9.32 g of ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate are placed in 100 ml of tert.butyl methyl ether with 3.54 g of triethylamine. 4.92 g of benzoyl chloride are added dropwise within about 30 minutes while cooling with an ice bath. The mixture is then left to stir at 0°-5° C. for 20 minutes. The reaction mixture is poured into water and extracted twice with ethyl acetate. The extracts are washed with water and saturated sodium chloride solution, dried over anhydrous sodium sulfate and evaporated. The crude product is dissolved in ethyl acetate while warming and suction filtered over an about 3 cm deep layer of silica gel. The crystals obtained after evaporation of the filtrate are recrystallized from ethanol, and there is obtained ethyl N-benzoyl-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate, m.p. 116°-117° C.

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | 9.32 g | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | triethylamine | 3.54 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 4.92 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | O | H2O
solvent | tert.butyl methyl ether | 100 ml | COC(C)(C)C | C5H12O
product | ethyl N-benzoyl-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C(C1=CC=CC=C1)(=O)N=C(OCC)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2 | C24H22N2O2
